US07691882B2
2-(2-Nitro-ethyl)-5-phenoxy-pyridine
A mixture of 5-phenoxy-pyridine-2-carbaldehyde (700 mg, 3.5 mmol) described in Manufacturing Example 121-1-3, lithium methoxide (170 mg, 4.6 mmol), nitromethane (280 mg, 4.6 mmol), and methanol (10 mL) was dissolved by irradiating ultrasonic wave for 2 minutes at room temperature, after which the reaction solution was concentrated under a reduced pressure. Acetic anhydride (30 mL) and triethylamine (1.1 g, 11 mmol) were added to the residue, which was stirred for 10 minutes at room temperature, after which the reaction solution was concentrated under a reduced pressure. Ethyl acetate was added to the residue, and the organic layer was separated and washed with saturated aqueous sodium chloride once and then dried over anhydrous magnesium sulfate. The solvent was evaporated under a reduced pressure, dimethyl sulfoxide (5.0 mL), acetic acid (0.50 mL), and sodium borohydride (270 mg, 7.0 mmol) were added to the residue, which was stirred for 5 minutes at room temperature. Water and ethyl acetate were added to the reaction solution, and then the ethyl acetate layer was separated and washed with aqueous sodium bicarbonate, water, and saturated aqueous sodium chloride. The solvent was evaporated under a reduced pressure, and the residue was purified first by silica gel column chromatography (heptane:ethyl acetate=2:1) and then NH silica gel column chromatography (heptane:ethyl acetate=4:1 then 2:1) to obtain the title compound (76 mg, 8.9%).

reactant | 5-phenoxy-pyridine-2-carbaldehyde | 3.5 mmol, 700 mg | O(C1=CC=CC=C1)C=1C=CC(=NC1)C=O | C12H9NO2
reactant | lithium methoxide | 4.6 mmol, 170 mg | C[O-].[Li+]
reactant | nitromethane | 4.6 mmol, 280 mg | [N+](=O)([O-])C | CH3NO2
reactant | Acetic anhydride | 30 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 11 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | sodium borohydride | 7.0 mmol, 270 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | acetic acid | 0.50 mL | C(C)(=O)O | C2H4O2
solvent | dimethyl sulfoxide | 5.0 mL | CS(=O)C | C2H6OS
solvent | methanol | 10 mL | CO | CH4O
product | 2-(2-Nitro-ethyl)-5-phenoxy-pyridine | 76 mg, 8.9% | [N+](=O)([O-])CCC1=NC=C(C=C1)OC1=CC=CC=C1 | C13H12N2O3
